US06153768
Synthesis of 1-(4,4,5,5,5-pentafluoropentyl)piperazine
Piperazine (777 mg, 9.0 mmol) was added to ethanol solution (10 ml) of 4,4,5,5,5-pentafluoropentyloxytoluenesulfonate (600 mg, 1.81 mmol) and then heated under refluxing for 40 hours. After adding water, the reaction solution was extracted with ethyl acetate. The solvent was distilled off under reduced pressure from the extract to obtain 315 mg (yield: 100%) of the title compound.

reactant | Piperazine | 9.0 mmol, 777 mg | N1CCNCC1 | C4H10N2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | 4,4,5,5,5-pentafluoropentyloxytoluenesulfonate | 1.81 mmol, 600 mg | FC(CCCOC1=C(C(=CC=C1)C)S(=O)(=O)[O-])(C(F)(F)F)F
solvent | water | O | H2O
product | 1-(4,4,5,5,5-pentafluoropentyl)piperazine | 315 mg, yield: 100% | FC(CCCN1CCNCC1)(C(F)(F)F)F | C9H15F5N2
